US05691171
Transformants were spread on LB plates containing 1 mM phenol, 50 μg of ampicillin per ml, and 12.5 μg of tetracycline per ml and incubated overnight at 37° C. Colonies that became yellow (as a result of 2-hydroxymuconic semialdehyde) following spraying of a 0.1% of catechol solution were patched on LB plates containing 1 mM phenol. Colonies in which the yellow compound formed during growth without catechol addition were retained as putative carriers of both pheA and pheB.

reactant | phenol | 1 mM | C1(=CC=CC=C1)O | C6H6O
reactant | ampicillin | 50 μg | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | tetracycline | 12.5 μg | C[C@]1(C=2C=CC=C(C2C(=O)C3=C([C@]4([C@@H](C[C@@H]31)[C@@H](C(=C(C4=O)C(=O)N)O)N(C)C)O)O)O)O | C22H24N2O8
product | 2-hydroxymuconic semialdehyde | C(=C/C(=O)C(=O)O)\C=C\O | C6H6O4
